US08389511B2
N-Isopropyl-7-methyl-3-oxo-N-[(3R)-piperidin-3-yl]-4-[2-(propionylamino)ethyl]-3,4-dihydrospiro-[1,4-benzothiazine-2,1′-cyclobutane]-6-carboxamide hydrochloride
To a solution of tert-butyl (3R)-3-[isopropyl({7-methyl-3-oxo-4-[2-(propionylamino)ethyl]-3,4-dihydrospiro[1,4-benzothiazine-2,1′-cyclobutan]-6-yl}carbonyl)amino]piperidine-1-carboxylate (2.5 g) in chloroform (7 ml)-methanol (15 ml) was added a 4N hydrochloric acid/dioxane solution (21 ml), and the mixture was stirred at room temperature for one hour. The mixture was concentrated under reduced pressure to give the title compound (2.2 g).

reactant | tert-butyl (3R)-3-[isopropyl({7-methyl-3-oxo-4-[2-(propionylamino)ethyl]-3,4-dihydrospiro[1,4-benzothiazine-2,1′-cyclobutan]-6-yl}carbonyl)amino]piperidine-1-carboxylate | 2.5 g | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C3(CCC3)S2)=O)CCNC(CC)=O)C1)C | C31H46N4O5S
reactant | methanol | 15 ml | CO | CH4O
reactant | hydrochloric acid dioxane | 4N, 21 ml | Cl.O1CCOCC1
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Isopropyl-7-methyl-3-oxo-N-[(3R)-piperidin-3-yl]-4-[2-(propionylamino)ethyl]-3,4-dihydrospiro-[1,4-benzothiazine-2,1′-cyclobutane]-6-carboxamide hydrochloride | 2.2 g | Cl.C(C)(C)N(C(=O)C=1C(=CC2=C(N(C(C3(CCC3)S2)=O)CCNC(CC)=O)C1)C)[C@H]1CNCCC1 | InChI=1S/C26H38N4O3S.ClH/c1-5-23(31)28-12-13-29-21-15-20(24(32)30(17(2)3)19-8-6-11-27-16-19)18(4)14-22(21)34-26(25(29)33)9-7-10-26;/h14-15,17,19,27H,5-13,16H2,1-4H3,(H,28,31);1H/t19-;/m1./s1
